US07057046B2
(S)-3-(5-chloroindole-2-carbonylamino)-2,3-dihydro-1,5-benzoxazepin-4(5H)-one
Alternatively, to a mixture of (S)-3-amino-2,3-dihydro-1,5-benzoxazepin-4(5H)-one hydrochloride salt (54 mg) (prepared in Itoh, et al., Chem. Pharm. Bull. 1986, 34, 1128–1147), tetrahydrofuran (10 mL), 5-chloroindole-2-carboxylic acid (39 mg), 1-hydroxy-7-azabenzotriazole (31 mg), and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (57 mg) stirring at room temperature under argon was added diisopropylethylamine (65 mg). The resulting yellow suspension was stirred for 30 min, during which a solution formed. After evaporation under vacuum, the residue was redissolved in ethyl acetate (50 mL) and the resulting solution was washed sequentially with 1.0 M aqueous hydrochloric acid (25 mL), 1.0 M aqueous sodium hydroxide (25 mL), water (25 mL) and brine (25 mL), dried over anhydrous sodium sulfate, and evaporated under vacuum. The resulting solid crude product was triturated with diethyl ether (20 mL three times), followed by drying under vacuum to provide the title compound (63 mg).

reactant | (S)-3-amino-2,3-dihydro-1,5-benzoxazepin-4(5H)-one hydrochloride salt | 54 mg | Cl.N[C@H]1COC2=C(NC1=O)C=CC=C2
reactant | 5-chloroindole-2-carboxylic acid | 39 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 1-hydroxy-7-azabenzotriazole | 31 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 57 mg | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 65 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (S)-3-(5-chloroindole-2-carbonylamino)-2,3-dihydro-1,5-benzoxazepin-4(5H)-one | 63 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1COC2=C(NC1=O)C=CC=C2 | C18H14ClN3O3
